### PR TITLE
feat(CategoryTheory): the Grothendieck construction is prefibered

### PR DESCRIPTION
**Pull request by FernandoChu**
Adds a `isPreFibered` instance for the Grothendieck construction.

Co-authored-by: Christian Merten <c.j.merten@uu.nl>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 1]
```diff
@@ -118,6 +119,57 @@ def forget : ∫ F ⥤ 𝒮 where
...
+
+/-- Given some lift `g` of `f`, the canonical map from the domain of `g` to the domain of
+the cartesian lift of `f`. -/
+def map_cartesianLift {a' : ∫ F} (g : a' ⟶ a) [inst : (forget F).IsHomLift f g] :
+    a' ⟶ domain_cartesianLift F f := by
+  constructor; swap
+  · exact eqToHom <| IsHomLift.domain_eq (forget F) f g
+  · have := by simpa using IsHomLift.fac' (forget F) f g
+    exact g.fiber ≫ ((eqToIso (congrArg (fun u ↦ F.map u.op.toLoc) this)).app a.fiber).hom ≫
+      ((F.mapComp f.op.toLoc _).app _).hom
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean:144]:
```suggestion
    a' ⟶ domain_cartesianLift F f where
  base := eqToHom <| IsHomLift.domain_eq (forget F) f g
  fiber :=
    have : g.base = eqToHom _ ≫ f := by simpa using IsHomLift.fac' (forget F) f g
    g.fiber ≫ ((eqToIso (congrArg (fun u ↦ F.map u.op.toLoc) this)).app a.fiber).hom ≫
      ((F.mapComp f.op.toLoc _).app _).hom
```

Comment (chrisflav) [reply Mathlib/CategoryTheory/Bicategory/Grothendieck.lean:144]: Generally, we try to avoid constructing data using tactics.

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 2]
```diff
@@ -118,6 +119,57 @@ def forget : ∫ F ⥤ 𝒮 where
...
+  · constructor
+    · apply map_cartesianLift_isHomLift
+    · apply Hom.ext <;> simpa using (IsHomLift.fac' (forget F) f g).symm
+  · rintro H K rfl
+    apply Hom.ext
+    · simp only [categoryStruct_comp_base, op_comp, Quiver.Hom.comp_toLoc, id_comp, eqToHom_app,
+      assoc, categoryStruct_comp_fiber, forget_obj, Iso.app_hom, eqToIso.hom, Cat.comp_obj, map_id]
+      have := by simpa using IsHomLift.fac' (forget F) (𝟙 b) H
+      simp [F.mapComp_congr rfl (congrArg (fun u ↦ u.op.toLoc) this)]
+    · simpa using IsHomLift.fac' (forget F) (𝟙 b) H
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean:171]:
```suggestion
  refine ⟨fun {a b} f ↦ ⟨domain_cartesianLift F f, cartesianLift F f, ?_⟩⟩
  refine {cond := (cartesianLift_isHomLift F f).cond, universal_property := ?_}
  intro a' g hfg
  refine ⟨map_cartesianLift F f g, ?_⟩
  simp only [categoryStruct_Hom, and_imp, map_cartesianLift, cartesianLift]
  refine ⟨⟨map_cartesianLift_isHomLift _ _ _, ?_⟩, ?_⟩
  · exact Hom.ext _ _ (by simpa using (IsHomLift.fac' (forget F) f g).symm) (by simp)
  · rintro H K rfl
    apply Hom.ext
    · have := by simpa using IsHomLift.fac' (forget F) (𝟙 b) H
      simp [F.mapComp_congr rfl (congrArg (fun u ↦ u.op.toLoc) this)]
    · simpa using IsHomLift.fac' (forget F) (𝟙 b) H
```

File: Mathlib/CategoryTheory/Bicategory/Grothendieck.lean [hunk 3]
```diff
@@ -118,6 +119,54 @@ def forget : ∫ F ⥤ 𝒮 where
...
+def cartesianLift : domainCartesianLift F f ⟶ a :=
+  ⟨f, 𝟙 _⟩
+
+lemma isHomLift_cartesianLift :
+    IsHomLift (forget F) f (cartesianLift F f) :=
+  ⟨IsHomLiftAux.map (p := forget F) (a := domainCartesianLift F f) ⟨f, 𝟙 _⟩⟩
+
+/-- Given some lift `g` of `f`, the canonical map from the domain of `g` to the domain of
+the cartesian lift of `f`. -/
+def homCartesianLift {a' : ∫ F} (g : a' ⟶ a) [inst : (forget F).IsHomLift f g] :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Bicategory/Grothendieck.lean:140]:
```suggestion
def homCartesianLift {a' : ∫ F} (g : a' ⟶ a) [(forget F).IsHomLift f g] :
```

**Review by chrisflav — COMMENTED** [review]
To me this looks good, but I know neither the maths nor the fibered category API. @callesonne as you are the expert here, would you mind having a look at this?

**Comment by callesonne** [comment]
For some reason I did not get a notification for this (and I forgot after you told me in person). Sorry about that! Will have a look later today :)

**Review by callesonne — COMMENTED** [review]
Great stuff! Glad to see you working on this part of the library :)

So I was actually working on this earlier (but then was held up by my wrists as you might have heard from chris). I had proven that this functor was fibered, and also provided a `HasFibers` instance on it. [Here](https://github.com/leanprover-community/mathlib4/blob/fiberedcategories_pseudofunctor/Mathlib/CategoryTheory/FiberedCategory/Pseudofunctor.lean) is the branch I was working on. However I think your code looks cleaner than what I had (and also has better naming!), so I suggest we take the fiber product of our separate progress and merge it into one. So for example, could we combine this PR with some of what I have on that branch to show immediately that the functor is actually fibered?

Then we (or I, if you don't have the time) can make a follow up PR with the `HasFibers` instance.

**Comment by callesonne** [comment]
Now that #25645 has been merged, this PR can be closed :)
